US09029378B2
In a 250 mL round flask 4-bromoisoquinoline (1 g, 4.81 mmol), benzophenone imine (2.41 mL, 14.42 mL), Pd(OAc)2 (33 mg, 0.14 mmol), BINAP (299 mg, 0.05 mmol), DPPF (266 g, 0.05 mmol) and triethylamine (0.17 mL, 1.20 mmol) were concentrated in vacuum for 15 min and then dissolved in 50 mL anhydrous toluene at room temperature for 20 min. Cs2CO3 (2.35 g, 7.21 mmol) was added to the reaction mixture. The reaction mixture was heated at 110° C. for 18 h. The reaction mixture was cooled to room temperature and filtered. The filtrate was concentrated under reduced pressure to afford the crude which was purified by column chromatography to give N-(diphenylmethylene)-isoquinolin-4-amine (853 mg, 58%).

reactant | 4-bromoisoquinoline | 4.81 mmol, 1 g | BrC1=CN=CC2=CC=CC=C12 | C9H6BrN
reactant | benzophenone imine | 2.41 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | BINAP | 0.05 mmol, 299 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | triethylamine | 1.20 mmol, 0.17 mL | C(C)N(CC)CC | C6H15N
reactant | Cs2CO3 | 7.21 mmol, 2.35 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.14 mmol, 33 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | DPPF | 0.05 mmol, 266 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | N-(diphenylmethylene)-isoquinolin-4-amine | 853 mg, 58% | C1(=CC=CC=C1)C(=NC1=CN=CC2=CC=CC=C12)C1=CC=CC=C1 | C22H16N2
